datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])[H:18])[H:17])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])=[C:5]([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12],139.411
[N:0]([O:1][H:4])([H:2])[H:3].[O:5]>>[H:2][O:5].[N:0]([O:1][H:4])[H:3],51.5594
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:6])[H:7].[H:5][C:13]([H:14])([H:15])[H:16],30.007648
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])=[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])([H:13])[C:2]([H:14])([H:15])[C:3]([H:16])([H:17])[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26],35.1038
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10](=[C:11]([H:19])[H:20])[H:18])[C:12](=[C:13]([H:22])[H:23])[H:21])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:14])[H:15])[H:16])([C:9]([C:10](=[C:11]([H:19])[H:20])[H:18])[C:12](=[C:13]([H:22])[H:23])[H:21])[H:17])[H:3],26.6102
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:16])[H:6])([H:4])[H:5].[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:17])[H:18],67.7808
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5],166.105
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([C:7]([H:16])([H:17])[H:18])[C:6]1([H:14])[H:15])[H:8],81.4625
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21])[H:6])[H:5],-9.91608
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:19][O:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:18][O:19][O:20],140.66608
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[c:25]1[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]1[H:35]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[c:25]1[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]1[H:35])([H:11])([H:12])[H:13],1.29704
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[H:14])[C:5]([C:6](=[C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])[H:20])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1[C:3]([C:4]([H:15])([H:16])[H:17])([H:14])[C:8]([C:9]([H:22])([H:23])[H:24])([C:10]([H:25])([H:26])[H:27])[C:7]([H:21])=[C:6]([H:20])[C:5]1([H:18])[H:19])[H:13])([H:11])[H:12],88.8682
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([C:8]([H:21])([H:22])[H:23])[H:20])[H:19])[H:11])([H:9])[H:10],108.24
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6]([C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6]([C:5]([H:8])([H:9])[H:10])([C:7]([H:12])([H:13])[H:14])[H:11],-20.92
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]23[C:5]([H:15])([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]2([H:19])[C:9]13[H:20]>>[C:0]1([H:10])=[C:9]([H:20])[C:8]2([H:19])[C:4]([C:3]([H:13])([H:14])[C:2]([H:12])=[C:1]1[H:11])[C:5]([H:15])([H:16])[C:6]([H:17])=[C:7]2[H:18],76.1488
[C:0]([C:1]([C:2](=[C:3]([O:4])[H:11])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2](=[C:3]([O:4][H:8])[H:11])[H:10])[H:9])([H:5])([H:6])[H:7],113.721
